US04571423
Production of 2-acetaminopyrrolo(2,3-d)pyrimidin-4-one
2-Aminopyrrolo(2,3-d)pyrimidin-4-one (3.0 g) and acetic anhydride (10 g) are suspended in pyridine (50 ml) and the reaction is conducted under reflux for 24 hours. The solvent and excess reagent are distilled off under reduced pressure and, on an ice bath, 5% (W/V) alcoholic ammonia (20 ml) is added to the residue. The mixture is stirred for 2 hours. The resulting crystalline precipitate is collected by filtration and washed with dilute hydrochloric acid and water to give the above-identified compound (2.5 g).

reactant | 2-Aminopyrrolo(2,3-d)pyrimidin-4-one | 3.0 g | NC1=NC(C=2C(=N1)N=CC2)=O | C6H4N4O
reactant | acetic anhydride | 10 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2-acetaminopyrrolo(2,3-d)pyrimidin-4-one | 2.5 g | N(C(=O)C)C1=NC(C=2C(=N1)N=CC2)=O | C8H6N4O2
